US07915283B2
Preparation of 4-[1-Phenyl-1-(5-phenyl-1,3,4-oxadiazol-2-yl)methylene]piperidine-1-carboxylic Acid Tert-Butyl Ester
To a solution of 4-(1-phenyl-1-hydrazinocarbonyl-methylene)piperidine-1-carboxylic acid tert-butyl ester (0.150 g, 0.45 mmol) and iPr2NEt (0.541 mL, 3.11 mmol) in CH3CN (5 mL) was added benzoic anhydride (0.128 mg, 0.57 mmol) and the mixture was allowed to stir at room temperature for 1 h. To this mixture was then added PPh3 (0.485 g, 1.85 mmol), followed by hexachloroethane (0.245 g, 1.04 mmol). The mixture was allowed to stir for 1 h and then it was worked up as in Method A above and the crude product purified by flash chromatography (SiO2/EtOAc-hexane, 1:4) to give the title compound (0.146 g, 78%) as a colorless solid:

reactant | 4-(1-phenyl-1-hydrazinocarbonyl-methylene)piperidine-1-carboxylic acid tert-butyl ester | 0.45 mmol, 0.150 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=C(C(=O)NN)C1=CC=CC=C1 | C18H25N3O3
reactant | iPr2NEt | 3.11 mmol, 0.541 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | benzoic anhydride | 0.57 mmol, 0.128 mg | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | PPh3 | 1.85 mmol, 0.485 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | hexachloroethane | 1.04 mmol, 0.245 g | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
solvent | CH3CN | 5 mL | CC#N | C2H3N
product | 4-[1-Phenyl-1-(5-phenyl-1,3,4-oxadiazol-2-yl)methylene]piperidine-1-carboxylic Acid Tert-Butyl Ester | 0.146 g, 78% | C(C)(C)(C)OC(=O)N1CCC(CC1)=C(C=1OC(=NN1)C1=CC=CC=C1)C1=CC=CC=C1 | C25H27N3O3
